US05623073
9-(2-HYDROXY-2-PHENYLETHYL)-2,3-DIHYDROIMIDAZO[1,2-a]BENZIMIDAZOLE HYDROCHLORIDE
Add bit by bit 0.3 g (7.5 mmol) of sodium borohydride to a suspension of 1.94 g (7 mmol) of 9-phenacyl-2,3-dihydroimidazo[1,2-a]benzimidazole in 15 ml of methanol over a period of thirty minutes at room temperature. Continue stirring for a further four hours and leave until the next day. Add 10 ml of 10% hydrochloric acid until a pH of 2-3 is obtained and evaporate the methanol. Treat the residue with a solution of ammonium hydroxide and extract with chloroform. Recrystallise from ethanol the residue from extraction.

reactant | sodium borohydride | 7.5 mmol, 0.3 g | [BH4-].[Na+]
reactant | 9-phenacyl-2,3-dihydroimidazo[1,2-a]benzimidazole | 7 mmol, 1.94 g | C(C(=O)C1=CC=CC=C1)N1C=2N(C3=C1C=CC=C3)CCN2 | C17H15N3O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 9-(2-HYDROXY-2-PHENYLETHYL)-2,3-DIHYDROIMIDAZO[1,2-a]BENZIMIDAZOLE HYDROCHLORIDE | Cl.OC(CN1C=2N(C3=C1C=CC=C3)CCN2)C2=CC=CC=C2 | InChI=1S/C17H17N3O.ClH/c21-16(13-6-2-1-3-7-13)12-20-15-9-5-4-8-14(15)19-11-10-18-17(19)20;/h1-9,16,21H,10-12H2;1H
